US07449456B2
1-[(4-Nitrophenyl)acetyl]piperidine was alkylated with methyl -bromoacetate in the same manner as in Reference Example 47, hydrolyzed with 1 M sodium hydroxide aqueous solution in methanol, and then condensed with 1-methylpiperazine in the same manner as in Reference Example 5 to obtain 1-methyl-4-[3-(4-nitrophenyl)-4-oxo-4-piperidin-1-ylbutanoyl]piperazine (ESI: 389). This piperazine compound was subjected to the reduction of nitro group in the same manner as the catalytic hydrogenation shown in Reference Example 3 and then treated with lithium aluminum hydride to obtain 4-[3-(4-methylpiperazin-1-yl)-1-(piperidin-1-ylmethyl)propyl]aniline. ESI: 331.

reactant | 1-[(4-Nitrophenyl)acetyl]piperidine | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N1CCCCC1 | C13H16N2O3
reactant | methyl -bromoacetate | COC(CBr)=O | C3H5BrO2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | methanol | CO | CH4O
product | 1-methyl-4-[3-(4-nitrophenyl)-4-oxo-4-piperidin-1-ylbutanoyl]piperazine | CN1CCN(CC1)C(CC(C(N1CCCCC1)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C20H28N4O4
